US07585885B2
5-(Methyl-propylcarbamoyl)-isophthalic acid diethyl ester
Stir a solution of diethyl 1,3,5-benzene tricarboxylate (2.47 g, 9.28 mmol), 1-hydroxybenzotriazole (1.38 g, 10.2 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCl) (1.96 g, 10.2 mmol), N-methylpropylamine (1.04 mL, 10.2 mmol) in dichloromethane (50 mL) at room temperature overnight. Dilute with dichloromethane (300 mL) and extract the solution with 0.1 N citric acid (2×50 mL), saturated aqueous sodium bicarbonate (50 mL), and saturated aqueous sodium chloride (50 mL). Dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 50:50 ethyl acetate:hexanes) to give the title compound (2.02 g, 68%).

reactant | diethyl 1,3,5-benzene tricarboxylate | 9.28 mmol, 2.47 g | C1(=CC(=CC(=C1)C(=O)[O-])C(=O)OCC)C(=O)OCC
reactant | 1-hydroxybenzotriazole | 10.2 mmol, 1.38 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 10.2 mmol, 1.96 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methylpropylamine | 10.2 mmol, 1.04 mL | CNCCC | C4H11N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 5-(Methyl-propylcarbamoyl)-isophthalic acid diethyl ester | 2.02 g, 68% | C(C)OC(C1=CC(C(=O)OCC)=CC(=C1)C(N(CCC)C)=O)=O | C17H23NO5
